US06455578B1
Concentrated sulphuric acid (30 g) is added to acetyl acetophenone (15 g) obtained as above described. After cooling at room temperature, water is added until precipitation of a white powder, which is isolated by filtration under vacuum and washed with cold water. 2-methyl-4H-1-benzopyran-4-one (10 g) is obtained (m.p.=71° C.; yield=74%).

reactant | sulphuric acid | 30 g | S(O)(O)(=O)=O | H2O4S
reactant | acetyl acetophenone | 15 g | C(C)(=O)CC(=O)C1=CC=CC=C1 | C10H10O2
solvent | water | O | H2O
product | 2-methyl-4H-1-benzopyran-4-one | 10 g, yield=74% | CC=1OC2=C(C(C1)=O)C=CC=C2 | C10H8O2
